US06387919B1
4-[N′-(5-Methoxy-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide (Z-isomer)
The title compound was prepared from 5-methoxy-1H-indole-2,3-dione (Gassman, et al., Journal of Organic Chemistry 1977, 42, 1344-8) and 4-hydrazino benzenesulfonamide hydrochloride according to Procedure G: mp >250° C; 1H NMR (DMSO-d6): δ 3.80 (s, 3H), 6.87 (s, 2H), 7.20 (s, 1H), 7.28 (s, 2H), 7.60 (d, J=8.8 Hz, 2H), 7.81 (d, J=8.8 Hz, 2H), 10.93 (s, 1H), 12.85 (s, 1H); APCI−MS m/z 344.9 (M−H)−.

reactant | 5-methoxy-1H-indole-2,3-dione | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | 4-hydrazino benzenesulfonamide hydrochloride | Cl.N(N)C1=CC=C(C=C1)S(=O)(=O)N
product | 4-[N′-(5-Methoxy-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide | COC=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | C15H14N4O4S
